US06008243
To a solution of N-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-3(S)-[3-(biphenyl-4-yl)-1H-pyrrol-3-yl]succinamic acid t-butyl ester (80 mg, 0.14 mmol) in THF (5 mL) was added 2M aqueous LiOH (5 mL). EtOH (few drops) and H2O were added until a homogeneous solution was obtained. The resultant solution was heated at 50° C. After 12 hours, the mixture was acidified with 6N HCl to pH1. After another 5.5 hours at 50° C., the mixture was partitioned between EtOAc and 1M pH 7 phosphate buffer. The aqueousueous phase was separated and extracted with EtOAc two times. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to a residue which, upon trituration with CH2Cl2 /hex, provided 32 mg (49%) of pure N-(1(S)-benzyl-2-hydroxyethyl)-3(S)-[3-(biphenyl-4-yl)-1H-pyrrol-3-yl]succinamic acid as a white solid, mp 151-4° C. 1H NMR: (DMSO-d6): δ 7.83 (d, 1H, J=8.5 Hz), 7.74 (d, 2H, J=8.8 Hz), 7.69 (d, 2H, J=7.4 Hz), 7.59 (d, 2H, J=8.8 Hz), 7.46 (t, 2H, J=7.4 Hz), 7.38-7.31 (m, 2H), 7.28-7.13 (m, 6H), 6.22 (s, 1H), 4.81-4.70 (m, 1H), 3.89-3.78 (m, 2H), 2.85-2.69 (m, 2H). Anal. Calculated for C29H28N2O4.0.4 H2O: C, 73.21; H, 6.10; N, 5.89. Found: C, 73.39; H, 6.09; N, 5.93.

reactant | N-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-3(S)-[3-(biphenyl-4-yl)-1H-pyrrol-3-yl]succinamic acid t-butyl ester | 0.14 mmol, 80 mg | C(C)(C)(C)OC(C[C@H](C(=O)NN1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1(CNC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C36H43N3O4
reactant | LiOH | 2M, 5 mL | [Li+].[OH-]
reactant | EtOH | CCO | C2H6O
reactant | HCl | 6N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | N-(1(S)-benzyl-2-hydroxyethyl)-3(S)-[3-(biphenyl-4-yl)-1H-pyrrol-3-yl]succinamic acid | 32 mg, 49% | C(C1=CC=CC=C1)[C@@H](CO)NC([C@@H](CC(=O)O)C1(CNC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C29H30N2O4
